US07220856B2
Preparation of 7-Chloro-4-[4-[(4-fluorophenyl)acetyl]-1-piperazinyl]-2-quinolinamine
To a stirred solution of 4,7-dichloro-2-quinolinamine (50 mg, 0.19 mmol) in DSMO (10 mL) was added 4-fluorobenzeneacetic acid (32 mg, 0.2 mmol) followed by HATU (94 mg, 0.25 mmol) and triethylamine (0.053 ml, 0.38 mmol) at rt. After stirring overnight, the reaction mixture was poured into ice-water (10 mL), extracted with EtOAc, washed with brine, and dried over Na2SO4. Concentration in vacuo followed by preemptive TLC afforded the product. LC-MS: 398 (M++1)). 1H NMR (DMSO-d6): 62.9–3.05 (m, 4H), 3.68–3.85 (m, 6H), 6.22 (s, 1H), 6.45 (s, 2H), 7.05–7.2 (m, 3H), 7.22–7.33 (m, 2H), 7.35–7.4 (m, 1H), 7.7–7.8 (d, 1H).

reactant | 4,7-dichloro-2-quinolinamine | 0.19 mmol, 50 mg | ClC1=CC(=NC2=CC(=CC=C12)Cl)N | C9H6Cl2N2
reactant | 4-fluorobenzeneacetic acid | 0.2 mmol, 32 mg | FC1=CC=C(C=C1)CC(=O)O | C8H7FO2
reactant | HATU | 0.25 mmol, 94 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | triethylamine | 0.38 mmol, 0.053 ml | C(C)N(CC)CC | C6H15N
product | 7-Chloro-4-[4-[(4-fluorophenyl)acetyl]-1-piperazinyl]-2-quinolinamine | ClC1=CC=C2C(=CC(=NC2=C1)N)N1CCN(CC1)C(CC1=CC=C(C=C1)F)=O | C21H20ClFN4O
